Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2].[C:3](=[O:4])=[C:5]([H:6])[C:7]([H:8])[H:9]>>[C:1]#[C:2][C:3](=[O:4])[C:5]([H:6])=[C:7]([H:8])[H:9],-4.65928864115
[O:1][C:2]([H:3])([C:4]#[C:5][H:6])[C:7]#[C:8][H:9]>>[H:3].[O:1]=[C:2]([C:4]#[C:5][H:6])[C:7]#[C:8][H:9],0.791407283677
[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8],1.76113947375
[H:1][C:2]=[C:3]([O:4][C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]=[C:3]([O:4][C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.38286506654
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.46582304272
[C:1]#[C:2][C@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2].[C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],5.0377375763300005
[H:10].[H:1][C:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-5.30109120612
[H:3].[O:1]=[C:2]=[C:4][C:5][O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[H:9],-3.15416691016
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14].[H:11],4.78920313193
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10].[H:11],4.29088632322
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5][H:6]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.0654937995800005
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8],1.77616703594
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.20629059749
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][H:9],3.91222201084
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:7]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.93586794888
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])(=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5],1.00216298801
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-7.2329998529
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:4],4.787181024690001
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1],2.7319790369700003
[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.53073785171
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10].[O:11][H:12],6.38565861946
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],2.68496536033
[C:1]#[C:2].[C:3]([H:4])[O:5][C:6][O:7][H:8]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6][O:7][H:8],-7.415912739229999
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12].[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],-6.66916746585
[O:1][C@@:2]([H:3])([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8],-0.0516887005397
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:9].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][H:11],1.78488641653
[O:1]=[C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],4.59644809329
[C:5]([H:6])[H:7].[O:1]=[C:2]([C:3]#[C:4])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-7.535967462589999
[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-1.0931000834
